US07196102B2
Step 2) 1-Quinolin-8-yl-ethanone:
Quinoline-8-carboxylic acid methoxy-methyl-amide (2.16 g, 10 mmol) was dissolved in anhydrous THF (40 mL) and cooled to −78° C. The 3 M methyl magnesium iodide solution in diethyl ether (4.0 mL, 12 mmol, Aldrich) was slowly added to the reaction solution in dry ice bath. The reaction mixture was allowed to stir under nitrogen at room temperature for overnight then the reaction was cooled at ice bath and quenched with saturated aqueous ammonium chloride (40 mL). The organic phase was separated and the aqueous phase was extracted with ethyl acetate (30 mL×2). The combined organic layers were dried over anhydrous magnesium sulfate and concentrated via vacuo to give crude title compound as light yellow solid in 83% yield (1.42 g, 8.3 mmol).

reactant | Quinoline-8-carboxylic acid methoxy-methyl-amide | 10 mmol, 2.16 g | CON(C(=O)C=1C=CC=C2C=CC=NC12)C | C12H12N2O2
reactant | methyl magnesium iodide | 3 M | C[Mg]I
reactant | diethyl ether | 12 mmol, 4.0 mL | C(C)OCC | C4H10O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | dry ice | C(=O)=O | CO2
product | 1-Quinolin-8-yl-ethanone | 83% yield | N1=CC=CC2=CC=CC(=C12)C(C)=O | C11H9NO
